US06369063B1
Preparation of N-(2,2-dimethoxyethyl)glycine ethyl ester:
The title compound was synthesized by the method of Example 4 starting with 2,2-dimethoxyethylamine and ethyl bromoacetate.

reactant | 2,2-dimethoxyethylamine | COC(CN)OC | C4H11NO2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | N-(2,2-dimethoxyethyl)glycine ethyl ester | C(C)OC(CNCC(OC)OC)=O | C8H17NO4
